US07365095B2
{[(2R)-8-(2,5-dichlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl}amine hydrochloride
To a solution of (R)-2-azidomethyl-8-(2,5-dichloro-phenyl)-6-fluoro-chroman (240 mg, 0.68 mmol) in tetrahydrofuran (10 mL) and water (0.5 mL) was added triphenylphosphine (0.27 g, 10.2 mmol) and the reaction mixture stirred at room temperature for 24 hours. The solvent was removed under vacuum to form a colorless oil. Chromatography with 0–5% methanol in methylene chloride plus 1% NH4OH afforded {[(R-8-(2.5-dichlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl}amine as a colorless oil. The oil was dissolved in ethyl acetate and made into its hydrochloride salt (121 mg, 45%) using excess ethereal hydrochloric acid to give a white solid, mp 217–219° C.; MS (ES) m/z 324.0 ([M+H]+); [α]D25=+191.22° (c=5.1 mg/0.7 mL MeOH).

reactant | (R)-2-azidomethyl-8-(2,5-dichloro-phenyl)-6-fluoro-chroman | 0.68 mmol, 240 mg | N(=[N+]=[N-])C[C@@H]1OC2=C(C=C(C=C2CC1)F)C1=C(C=CC(=C1)Cl)Cl | C16H12Cl2FN3O
reactant | triphenylphosphine | 10.2 mmol, 0.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | MeOH | 0.7 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | NH4OH | [NH4+].[OH-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {[(2R)-8-(2,5-dichlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl}amine hydrochloride | Cl.ClC1=C(C=C(C=C1)Cl)C=1C=C(C=C2C=C[C@@H](OC12)CN)F | InChI=1S/C16H12Cl2FNO.ClH/c17-10-2-4-15(18)13(6-10)14-7-11(19)5-9-1-3-12(8-20)21-16(9)14;/h1-7,12H,8,20H2;1H/t12-;/m1./s1
